US04865619
Preparation of 2,4-dimethoxy-3,5-diaminochlorobenzene dihydrochloride
To 270 ml of water to which 27 ml of acetic acid have been added, heated beforehand to 80° C., there are added 100 g of powdered iron reduced with hydrogen and, in small portions and with stirring, 0.25 mole (66 g) of 2,4-dimethoxy-3,5-dinitrochlorobenzene. When the additions are complete, the reaction medium is maintained on a boiling water bath for a further 30 minutes. After being cooled, the reaction medium is centrifuged. The ferric sludge which contains the expected product is taken up with acetone using stirring. After filtration of the ferric sludge followed by washing with acetone, the expected product precipitates from the acetone filtrate on addition of a solution of hydrochloric acid in ethanol. After filtration with suction and washing, the expected product is recrystallized hot from a mixture of hydrochloric acid and water.

reactant | water | 270 ml | O | H2O
reactant | hydrogen | [H][H] | H2
reactant | 2,4-dimethoxy-3,5-dinitrochlorobenzene | 0.25 mole, 66 g | COC1=C(C=C(C(=C1[N+](=O)[O-])OC)[N+](=O)[O-])Cl | C8H7ClN2O6
catalyst | iron | 100 g | [Fe] | Fe
solvent | acetic acid | 27 ml | C(C)(=O)O | C2H4O2
product | 2,4-dimethoxy-3,5-diaminochlorobenzene dihydrochloride | Cl.Cl.COC1=C(C=C(C(=C1N)OC)N)Cl | InChI=1S/C8H11ClN2O2.2ClH/c1-12-7-4(9)3-5(10)8(13-2)6(7)11;;/h3H,10-11H2,1-2H3;2*1H
